US06579884B1
Synthesis of 2-(2-methoxyethyl)-6-methylbenzaldehyd
To a stirred solution of 2-(2-bromo-3-methylphenyl)ethyl methylether (1.5 g, 6.5 mmol) in anhydrous tetrahydrofuran (10 ml) was added magnesium (turnings) (0.16 g, 6.6 mmol). The mixture was refluxed in a nitrogen atmosphere until the reaction started and then stirred without heating for 15 min. The mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature and N,N-dimethylformamide (0.7 g) was added and the mixture was stirred for 30 min. A saturated ammonium chloride solution (10 ml) was added and the mixture was stirred for 1 h. at room temperature. Toluene (20 ml) was added and the organic layer was separated, dried (Na2SO4) and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using methylene chloride as eluent to separate the lipophilic biproducts and methylene chloride/diethyl ether(7:3) as eluent to isolate (0.17 g, (15%) of the title compound as an oil.

reactant | 2-(2-bromo-3-methylphenyl)ethyl methylether | 6.5 mmol, 1.5 g | BrC1=C(C=CC=C1C)CCOC | C10H13BrO
reactant | magnesium | 6.6 mmol, 0.16 g | [Mg] | Mg
reactant | N,N-dimethylformamide | 0.7 g | CN(C=O)C | C3H7NO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-methoxyethyl)-6-methylbenzaldehyd | 15% | COCCC1=C(C=O)C(=CC=C1)C | C11H14O2
